US05496805
2-Acetylthiomethyl-3-phenylpropanoic acid is reacted with oxalyl chloride and the resulting acid chloride is then reacted with 8-aminooctanoic acid, methyl ester hydrochloride in the presence of diisopropylethylamine as more fully described in Example 11 of European Patent Application 136,883 to give (±)-8-[[2-[(acetylthio)methyl]-1-oxo-3phenylpropyl]amino]octanoic acid, methyl ester.

reactant | 2-Acetylthiomethyl-3-phenylpropanoic acid | C(C)(=O)SCC(C(=O)O)CC1=CC=CC=C1 | C12H14O3S
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 8-aminooctanoic acid, methyl ester hydrochloride | Cl.NCCCCCCCC(=O)OC
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
product | (±)-8-[[2-[(acetylthio)methyl]-1-oxo-3phenylpropyl]amino]octanoic acid, methyl ester | C(C)(=O)SCC(C(=O)NCCCCCCCC(=O)OC)CC1=CC=CC=C1 | C21H31NO4S
